US09315491B2
1-[4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-imidazolidin-2-one
A mixture of 1-(2-chloro-ethyl)-3-[4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-urea (20 mg, 0.045 mmol.), 10% NaOH (0.5 ml), THF (2.0 ml), and H2O (1.0 ml) was added to a vessel. The reaction mixture was stirred at 80° C. for 8 hr and then dried, and the solvent was evaporated. The reaction mixture was partitioned between EA and 0.1N HCl, the organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Hexane/EtOAc 3:1) to give a gray solid of 11.4 mg (62.3%).

reactant | 1-(2-chloro-ethyl)-3-[4-(4-chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-urea | 0.045 mmol, 20 mg | ClCCNC(=O)NC1=CC=C(C=C1)C1=NC(=C(C(=N1)Cl)SC)N1CCOCC1 | C18H21Cl2N5O2S
reactant | NaOH | 0.5 ml | [OH-].[Na+]
reactant | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | H2O | 1.0 ml | O | H2O
product | 1-[4-(4-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-imidazolidin-2-one | ClC1=NC(=NC(=C1SC)N1CCOCC1)C1=CC=C(C=C1)N1C(NCC1)=O | C18H20ClN5O2S
